US07638625B2
4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl}-amide-naphthalene-2-sulphonate (6e)
0.25 g (0.38 mmol) 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl}-amide and 86.2 mg (0.38 mmol) naphthalene-2-sulphonic acid monohydrate are suspended in 5 ml isopropanol and refluxed. The solution is cooled to ambient temperature within 6 days in 5° C. stages and filtered. The isolated solid is washed with isopropanol and dried for 12 hours at 60° C.

reactant | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 0.38 mmol, 0.25 g | C(C)C=1C=C(C[C@H](C(=O)N2CCN(CC2)C2CCN(CC2)C)NC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=CC1CC | C38H55N7O3
reactant | naphthalene-2-sulphonic acid monohydrate | 0.38 mmol, 86.2 mg | O.C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl}-amide naphthalene-2-sulphonate | C(C)C=1C=C(C[C@H](C(=O)N2CCN(CC2)C2CCN(CC2)C)NC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=CC1CC.C1=C(C=CC2=CC=CC=C12)S(=O)(=O)[O-] | InChI=1S/C38H55N7O3.C10H8O3S/c1-4-29-11-10-28(26-30(29)5-2)27-35(36(46)43-24-22-42(23-25-43)32-13-17-41(3)18-14-32)40-37(47)44-19-15-33(16-20-44)45-21-12-31-8-6-7-9-34(31)39-38(45)48;11-14(12,13)10-6-5-8-3-1-2-4-9(8)7-10/h6-11,26,32-33,35H,4-5,12-25,27H2,1-3H3,(H,39,48)(H,40,47);1-7H,(H,11,12,13)/p-1/t35-;/m1./s1
